US05597848
Methyl 4-[4-[3-(4-Fluorophenyl)-1-hydroxypropyl]phenyl]butyrate
To a solution of 2.72 g of methyl 4-[4-(4-fluorocinnamoyl)phenyl]butyrate in 28 ml of methanol, 140 mg of 5% palladium on carbon was added, and hydrogenation was carried out at an ordinary temperature and under ordinary pressure for 4 hours. The catalyst was filtered off and then the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (methylene chloride→ethyl acetate) to yield 1.69 g of colorless oil.

reactant | methyl 4-[4-(4-fluorocinnamoyl)phenyl]butyrate | 2.72 g | FC1=CC=C(C=CC(=O)C2=CC=C(C=C2)CCCC(=O)OC)C=C1 | C20H19FO3
solvent | methanol | 28 ml | CO | CH4O
catalyst | palladium on carbon | 140 mg | [Pd] | Pd
product | Methyl 4-[4-[3-(4-Fluorophenyl)-1-hydroxypropyl]phenyl]butyrate | 1.69 g | FC1=CC=C(C=C1)CCC(O)C1=CC=C(C=C1)CCCC(=O)OC | C20H23FO3
